US08193199B2
A mixture of 2-((S)-1-(8-chloro-2-(2-chloro-5-fluoropyridin-3-yl)quinolin-3-yl)-ethyl)isoindoline-1,3-dione (192.7 mg, 413 μmol), dioxan (15 mL, 175989 μmol)-, triethylaluminum (236 mg, 2066 μmol) and tetrakis(triphenylphosphine)-palladium (96 mg, 83 μmol) was refluxed for 4 hs under N2, cooled to room temperature. The reaction mixture was acidified with HCl (2N) and the solvent was evaporated. The residue was diluted with water, basified with NaOH (20%), and the mixture was extracted with EtOAc. The combined extracts were washed with water, brine, dried and concentrated. Purification of the residue by flash chromatography over silica gel, gradient elution, 0-100% EtOAc in hexane, gave 2-((S)-1-(8-chloro-2-(2-ethyl-5-fluoropyridin-3-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione, Mass Spectrum (ESI) m/e=460.1 (M+1). And 2-((S)-1-(8-chloro-2-(5-fluoropyridin-3-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione, Mass Spectrum (ESI) m/e=432.1 (M+1).

reactant | 2-((S)-1-(8-chloro-2-(2-chloro-5-fluoropyridin-3-yl)quinolin-3-yl)-ethyl)isoindoline-1,3-dione | 413 μmol, 192.7 mg | ClC=1C=CC=C2C=C(C(=NC12)C=1C(=NC=C(C1)F)Cl)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C24H14Cl2FN3O2
reactant | dioxan | 175989 μmol, 15 mL | O1CCOCC1 | C4H8O2
reactant | triethylaluminum | 2066 μmol, 236 mg | C(C)[Al](CC)CC
reactant | HCl | 2N | Cl | ClH
catalyst | tetrakis(triphenylphosphine)-palladium | 83 μmol, 96 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-((S)-1-(8-chloro-2-(2-ethyl-5-fluoropyridin-3-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | ClC=1C=CC=C2C=C(C(=NC12)C=1C(=NC=C(C1)F)CC)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C26H19ClFN3O2
